US06831175B2
4-Bromo-benzene-1,2-diamine
A mixture of 4-bromo-2-nitroaniline (1 g; 4.6 mmol) and SnCl2.2H2O (6.2 g; 27.6 mmol) in MeOH (30 mL) with 5-6 drops of conc. HCl was heated at reflux for 5 hrs., concentrated, suspended in sat'd NaHCO3 (aq.) and extracted with EtOAc. The extracts were rinsed with brine, dried (MgSO4), and concentrated to provide the product of sufficient purity to carry on.

reactant | 4-bromo-2-nitroaniline | 4.6 mmol, 1 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | SnCl2.2H2O | 27.6 mmol, 6.2 g | O.O.Cl[Sn]Cl
solvent | MeOH | 30 mL | CO | CH4O
catalyst | HCl | 5-6 drops | Cl | ClH
product | 4-Bromo-benzene-1,2-diamine | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
